US09284271B2
N-(2-(5-chloro-1H-indol-3-yl)ethyl)-6-morpholinonicotinamide was obtained following Method C starting from 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride (0.042 g, 0.178 mmol), 6-morpholinonicotinoyl chloride (0.045 g; 0.178 mmol), and triethylamine (0.062 mL; 0.446 mmol) in dichloromethane (5 mL). Flash chromatography on silica gel (eluent 1 to 10% methanol in dichloromethane) furnished 0.039 g (57%) of N-(2-(5-chloro-1H-indol-3-yl)ethyl)-6-morpholinonicotinamide as a solid.

reactant | 2-(5-chloro-1H-indol-3-yl)ethanamine hydrochloride | 0.178 mmol, 0.042 g | Cl.ClC=1C=C2C(=CNC2=CC1)CCN
reactant | 6-morpholinonicotinoyl chloride | 0.178 mmol, 0.045 g | O1CCN(CC1)C1=NC=C(C(=O)Cl)C=C1 | C10H11ClN2O2
reactant | triethylamine | 0.446 mmol, 0.062 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-(5-chloro-1H-indol-3-yl)ethyl)-6-morpholinonicotinamide | 0.039 g, 57% | ClC=1C=C2C(=CNC2=CC1)CCNC(C1=CN=C(C=C1)N1CCOCC1)=O | C20H21ClN4O2
